US07285558B2
7-(Cyclopropylmethyl)-5-methyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
1-(Cyclopropylmethyl)-6-hydrazino-3-methylpyrimidine-2,4(1H,3H)-dione (5 g) was dissolved in DMF (5 mL) followed by addition of POCl3 (4 mL) dropwise at 0° C. The reaction was warmed to 80 C. for 3 h, followed by stirring at RT overnight. The solution was added to 200 mL of water and filtered to give about 5 g of yellow solids. Proton NMR was sufficient to carry on to next step.

reactant | 1-(Cyclopropylmethyl)-6-hydrazino-3-methylpyrimidine-2,4(1H,3H)-dione | 5 g | C1(CC1)CN1C(N(C(C=C1NN)=O)C)=O | C9H14N4O2
reactant | POCl3 | 4 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | water | 200 mL | O | H2O
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-(Cyclopropylmethyl)-5-methyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | about 5 g | C1(CC1)CN1C(N(C(C=2C1=NNC2)=O)C)=O | C10H12N4O2
